US07176310B1
23. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid cycloheptyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using cycloheptanol (39 mg, 0.34 mmol) as the coupling partner. Concentration (no chromatography) yielded 53 mg (80%) of the titled compound. ESI-MS m/z 388 (MH+), 386 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | cycloheptanol | 0.34 mmol, 39 mg | C1(CCCCCC1)O | C7H14O
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid cycloheptyl ester | 53 mg, 80% | C1(CCCCCC1)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C20H22FN3O4
